.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=23e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=23e-6 L=1e-6
M3 net_2 net_0 source_pmos source_pmos pmos W=1e-6 L=7e-6
M4 net_0 bias_p_2 net_2 net_2 pmos W=1e-6 L=7e-6
M5 net_4 net_0 source_pmos source_pmos pmos W=1e-6 L=7e-6
M6 outfirststage bias_p_2 net_4 net_4 pmos W=1e-6 L=7e-6
M7 net_0 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M8 outfirststage ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M9 net_1 bias_p_3 source_pmos source_pmos pmos W=3e-6 L=1e-6
M10 out bias_p_3 source_pmos source_pmos pmos W=3e-6 L=1e-6
M11 out outfirststage source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 ibias ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M13 bias_p_2 bias_p_2 source_pmos source_pmos pmos W=1e-6 L=14e-6
M14 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=3e-6 L=1e-6
M15 bias_p_3 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M16 bias_p_2 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
